US07294633B2
72.9 g of 2-amino-5-(3-nitrophenyl)furan-3,4-dicarboxylic acid diethyl ester are stirred for ca. 23 h at 140° C. under N2 in 200 ml of formamide, 100 ml of DMF and 40 ml of 98-100% formic acid. After cooling the solution, the reaction mixture is diluted with H2O, left to stand for 8 h and filtered by suction. The residue is dried in a HV, boiled in 300 ml of acetonitrile, filtered by suction, washed with ice-cold acetonitrile and dried in a HV. This second residue is boiled in 200 ml of methylene chloride, filtered by suction whilst warm, washed with methylene chloride and dried in a HV. The residue obtained contains the product; m.p.: 212-220° C. IR: 3528w, 3246m, 3092m, 2985w, 1936w, 1721s, 1589m, 1543s, 1482m, 1429w, 1378s, 1352s, 1323m, 1287m, 1234m, 1196m, 1076m, 1042s. In the product thus obtained, 4-hydroxy-6-(3-nitrophenyl)furo[2,3-d]pyrimidin-5-carboxylic acid amide is obtained as a by-product. This is obtained in analysis-pure form by recrystallisation from DMF; m.p.: ca. 380° C. (decomposition) IR: 3338m, 3180-2810w (multiplett), 1708s, 1676s, 1589w, 1560m, 1526s, 1406w, 1348s, 1220w, 1105w, 1081w, 1041w, 920w, 899w, 880w, 803w, 740w, 676w.

reactant | 2-amino-5-(3-nitrophenyl)furan-3,4-dicarboxylic acid diethyl ester | 72.9 g | C(C)OC(=O)C1=C(OC(=C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])N | C16H16N2O7
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
reactant | formic acid | 40 ml | C(=O)O | CH2O2
reactant | formamide | 200 ml | C(=O)N | CH3NO
solvent | H2O | O | H2O
product | 4-hydroxy-6-(3-nitrophenyl)furo[2,3-d]pyrimidin-5-carboxylic acid amide | OC=1C2=C(N=CN1)OC(=C2C(=O)N)C2=CC(=CC=C2)[N+](=O)[O-] | C13H8N4O5
